US04209625
A mixture of 3.2 g of 6-chloro-1'-methyl-1-(2-nitrophenyl)spiro[indoline-3,4'-piperidine], Example 30, 2.0 g of cyanogen bromide and 6.0 g of potassium carbonate in 100 ml of chloroform is stirred at ambient temperature for 6 hours. Thereafter, the mixture is sequentially quenched with water, extracted with dilute sodium hydroxide and dried. The chloroform is removed under reduced pressure and the residue is passed through a silica gel column, ether eluant, providing an orange oil which crystallizes upon standing. The solid is recrystallized from an acetone-hexane mixture to provide orange prisms, mp 163°-165° C. of 6-chloro-1'-cyano-1-(2-nitrophenyl)spiro[indoline-3,4'-piperidine].

reactant | 6-chloro-1'-methyl-1-(2-nitrophenyl)spiro[indoline-3,4'-piperidine] | 3.2 g | ClC1=CC=C2C(=C1)N(CC21CCN(CC1)C)C1=C(C=CC=C1)[N+](=O)[O-] | C19H20ClN3O2
reactant | cyanogen bromide | 2.0 g | N#CBr | CBrN
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-chloro-1'-cyano-1-(2-nitrophenyl)spiro[indoline-3,4'-piperidine] | ClC1=CC=C2C(=C1)N(CC21CCN(CC1)C#N)C1=C(C=CC=C1)[N+](=O)[O-] | C19H17ClN4O2
